US04963553
4,5-Dihydro-6-methyl-4-[[4-(2-pyridinyl)-1-piperazinyl]acetyl]-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 2 g of 1-(2-pyridinyl)piperazine, 2 g of 4-(chloroacetyl)-4,5-dihydro-6-methyl-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile and 60 ml of acetone was refluxed on a steam bath for 8 hours and then evaporated. The residue was stirred in water and the solid collected. The solid was dissolved in dilute hydrochloric acid, filtered and the filtrate basified with dilute ammonium hydroxide. The solid was collected, washed with water and dried in vacuo, giving 2.67 g of the desired product, mp 132°-134° C.

reactant | 1-(2-pyridinyl)piperazine | 2 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | 4-(chloroacetyl)-4,5-dihydro-6-methyl-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 2 g | ClCC(=O)N1C=2N(C(=C(C1)C)C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N | C17H12ClF3N4O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 4,5-Dihydro-6-methyl-4-[[4-(2-pyridinyl)-1-piperazinyl]acetyl]-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 2.67 g | CC=1CN(C=2N(C1C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N)C(CN2CCN(CC2)C2=NC=CC=C2)=O | C26H24F3N7O
